US05691330
The reaction and procedure were conducted in a similar manner as in Example 24 using 1.7 g of 6-acetyl-3-(2-chloroethyl)-4,5,6,7-tetrahydro-2-propylthieno[2,3-c]pyridine and 1.0 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 0.7 g of 6-acetyl-2-propyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine as an oil, m.p. 178°-180° C. (decomposition) as oxalate 1/2hydrate thereof.

reactant | 6-acetyl-3-(2-chloroethyl)-4,5,6,7-tetrahydro-2-propylthieno[2,3-c]pyridine | 1.7 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)CCC)CCCl | C14H20ClNOS
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 1.0 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | 6-acetyl-2-propyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 0.7 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)CCC)CCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F | C26H32FN3O2S
